US07973055B2
N-(2-tert-Butoxycarbonylaminoethyl)isophthalamic Acid Methyl Ester
Mono-methyl isophthalate (10.0 g, 55.5 mmol), t-butyl n-(2-aminoethyl)carbamate (8.89 g, 55.5 mmol, 1.0 eq) and EDCI (12.2 g, 63.8 mmol, 1.15 eq) were dissolved in 270 mL DCM, followed by the addition of DIPEA (29.0 mL, 166 mmol, 3.0 eq). The reaction was allowed to stir at room temperature overnight. It was then taken up in 100 mL of DCM, washed with a 1:1 solution of 1.0 N HCl in brine, water, and a 1:1 solution of brine in saturated NaHCO3. The organic layer was dried over Na2SO4, filtered and concentrated to afford the product as a light yellow solid (12.81 g, 72%).

reactant | Mono-methyl isophthalate | 55.5 mmol, 10.0 g | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
reactant | t-butyl n-(2-aminoethyl)carbamate | 55.5 mmol, 8.89 g, 1.0 eq | CC(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | EDCI | 63.8 mmol, 12.2 g, 1.15 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 166 mmol, 29.0 mL, 3.0 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 270 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-tert-Butoxycarbonylaminoethyl)isophthalamic Acid Methyl Ester | 12.81 g, 72% | COC(C1=CC(C(=O)NCCNC(=O)OC(C)(C)C)=CC=C1)=O | C16H22N2O5
